US05536718
4-[([1,1'-Biphenyl]-2-carbonyl)-amino]-3-methoxybenzoyl Chloride
A solution of 2.69 g of 4-[([1,1'-biphenyl]-2-carbonyl]amino]-3-methoxy benzoic acid in 5 ml of thionyl chloride is heated on a steam bath for 1 hour under Argon. The volatiles are removed in vacuo to give a residue which is stirred with hexane to give 2.58 g of crystalline solid, m.p. 121°-123° C. M+=361.

reactant | 4-[([1,1'-biphenyl]-2-carbonyl]amino]-3-methoxy benzoic acid | 2.69 g | C=1(C(=CC=CC1)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)C1=CC=CC=C1 | C21H17NO4
reactant | hexane | CCCCCC | C6H14
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-[([1,1'-Biphenyl]-2-carbonyl)-amino]-3-methoxybenzoyl Chloride | 2.58 g | C=1(C(=CC=CC1)C(=O)NC1=C(C=C(C(=O)Cl)C=C1)OC)C1=CC=CC=C1 | C21H16ClNO3
